### PR TITLE
[Merged by Bors] - feat: the `rw_search` tactic

### PR DESCRIPTION
**Pull request by kim-em**
Example usage:

```
example (xs ys : List α) : (xs ++ ys ++ ys).length = 2 * ys.length + xs.length := by
  rw_search  -- Try this: rw [@List.length_append, @List.length_append, @add_rotate, Nat.two_mul]
```

---

- [x] depends on: #5957 
- [x] depends on: #6088 
- [x] depends on: #6090
- [x] depends on: #6092
- [x] depends on: #6096
- [x] depends on: #6097
- [x] depends on: #6115
- [x] depends on: #6117
- [x] depends on: #6118
- [x] depends on: #6119
- [x] depends on: #6434 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/RewriteSearch.lean [hunk 1]
```diff
@@ -0,0 +1,216 @@
...
+The edit distance heuristic could be replaced by something else.
+
+No effort has been made to choose the best tokenization scheme, and this should be investigated.
+Moreover, the Levenshtein distance function is customizable with different weights for each token,
+and it would be interesting to try optimizing these
+(or dynamically updating them,
+adding weight to tokens that persistently appear on one side of the equation but not the other.)
+
+Currently the `rw?` tactic (for generating a single rewrite) will not rewrite by a local hypothesis.
+Similarly, it will not use local hypotheses to discharge side conditions during rewriting.
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/RewriteSearch.lean:40]: Is this still accurate once #6764 lands?

Comment (semorrison) [reply Mathlib/Tactic/RewriteSearch.lean:40]:
```suggestion
The `rw_search` tactic will rewrite by local hypotheses,
but will not use local hypotheses to discharge side conditions. 
This limitation would need to be resolved in the `rw?` tactic first.
```

Comment (semorrison) [reply Mathlib/Tactic/RewriteSearch.lean:40]: Thanks! I will add a test for this.

File: Mathlib/Data/MLList/BestFirst.lean [hunk 2]
```diff
@@ -29,37 +31,198 @@ Options:
...
+    | none => do match ← l.uncons with
+      | none => pure none
+      | some (b, l') => pure <| some (⟨n.key, n.estimator, b⟩, RBMap.single n l')
+    | some ((m, _), _) =>
+      match improveUntil (prio n.key) (m.estimate < ·) n.estimator with
+      | .error e => do match ← l.uncons with
+        | none => popWithBound (q.erase n)
+        | some (b, l') =>
+          match e with
+          | none => pure <| some (⟨n.key, n.estimator, b⟩, q.modify n fun _ => l')
```
Comment (Vierkantor) [inline Mathlib/Data/MLList/BestFirst.lean:147]: One thing I'm noticing is that the control flow is quite deeply nested. If we weren't already in a monadic context, many `match` statements on `Option`s could be replaced with binds:
```
  match s.next? with
  | none => pure none
  | some ((n, l), s') => ...
```
could morally become:
```
  let ((n, l), s') ← s.next?
```
Maybe there is still a way to do this with Lean's fancier `do`?

This also reappears a few times below.

Comment (Vierkantor) [reply Mathlib/Data/MLList/BestFirst.lean:147]: Regardless of monadology, how about moving the logic that improves the estimate for the queue's head to a separate definition? I imagine it could also be useful in other applications (for example, peek).

File: Mathlib/Data/MLList/BestFirst.lean [hunk 3]
```diff
@@ -29,37 +31,198 @@ Options:
...
+open Std EstimatorData Estimator Set
 
-variable {α : Type u} [Monad m] [Alternative m] [Ord α]
+/-!
+We begin by defining a best-first queue of `MLList`s.
+This is a somewhat baroque data structure designed for the application in this file
+(and in particularly for the implementation of `rewrite_search`).
+If someone would like to generalize appropriately that would be great.
+
+We want to maintain a priority queue of `MLList m β`, each indexed by some `a : α` with a priority.
```
Comment (Vierkantor) [inline Mathlib/Data/MLList/BestFirst.lean:42]: Do I understand correctly that we can also see this as a priority queue mapping `a : α` to `b : β`, with `a` allowed to occur multiple times? This way, we can also interpret the use of the `MLList` as an optimization so multiply occurring keys don't need to have their priority recalculated.

File: Mathlib/Data/MLList/BestFirst.lean [hunk 4]
```diff
@@ -29,37 +31,198 @@ Options:
...
+To complicate matters, the priorities might be expensive to calculate,
+so we instead keep track of a lower bound for each such `a : α`.
```
Comment (Vierkantor) [inline Mathlib/Data/MLList/BestFirst.lean:44]: In this context of best-first search, I initially interpreted lower priorities to mean worse, but here they are better, right? (This order on priority goes against the conventions in Lean where lower priorities are visited later, maybe we should replace "priority" with another word?)
```suggestion
so we instead keep track of a lower bound (where less is better) for each such `a : α`.
```

File: Mathlib/Tactic/RewriteSearch.lean [hunk 5]
```diff
@@ -0,0 +1,218 @@
...
+
+set_option autoImplicit true
+
+namespace Mathlib.Tactic.RewriteSearch
+
+open Lean Meta
+open Mathlib.Tactic.Rewrites
+
+/-- Separate a string into a list of strings by pulling off initial `(` or `]` characters,
+and pulilng off terminal `)`, `]`, or `,` characters. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/RewriteSearch.lean:53]:
```suggestion
and pulling off terminal `)`, `]`, or `,` characters. -/
```

File: Mathlib/Tactic/RewriteSearch.lean [hunk 6]
```diff
@@ -0,0 +1,218 @@
...
+-- This appears to work better than just breaking the string into characters,
+-- but more extensive testing would be great!
+def tokenize (e : Expr) : MetaM (List String) := do
+  let s := (← ppExpr e).pretty
+  return s.splitOn.map splitDelimiters |>.join
+
+/-- info: ["1", "+", "(", "3", "+", "5", ")"] -/
+#guard_msgs in
+open Qq in
+#eval tokenize q(1 + (3 + 5))
```
Comment (Vierkantor) [inline Mathlib/Tactic/RewriteSearch.lean:74]: Should this instead be in a `test` file?

File: Mathlib/Tactic/RewriteSearch.lean [hunk 7]
```diff
@@ -0,0 +1,218 @@
...
+  else if s.endsWith ")" || s.endsWith "]" || s.endsWith "," then
+    splitDelimiters (s.dropRight 1) ++ [s.takeRight 1]
+  else
+    [s]
+
+/--
+Tokenize a string at whitespace, and then pull off delimiters.
+-/
+-- This appears to work better than just breaking the string into characters,
+-- but more extensive testing would be great!
```
Comment (Vierkantor) [inline Mathlib/Tactic/RewriteSearch.lean:66]: What exactly does "work better" mean here? Do you mean `rw_search` returns better results, or returns the same results more efficiently?

File: Mathlib/Tactic/RewriteSearch.lean [hunk 8]
```diff
@@ -0,0 +1,218 @@
...
+open Lean Meta
+open Mathlib.Tactic.Rewrites
+
+/-- Separate a string into a list of strings by pulling off initial `(` or `]` characters,
+and pulilng off terminal `)`, `]`, or `,` characters. -/
+partial def splitDelimiters (s : String) : List String :=
+  if s.startsWith "(" || s.startsWith "[" then
+    s.take 1 :: splitDelimiters (s.drop 1)
+  else if s.endsWith ")" || s.endsWith "]" || s.endsWith "," then
+    splitDelimiters (s.dropRight 1) ++ [s.takeRight 1]
```
Comment (Vierkantor) [inline Mathlib/Tactic/RewriteSearch.lean:58]: This concatenation operation means this function is quadratic in the number of split postfix delimiters. Of course profiling should be used first, but an accumulating parameter might give a relatively easy performance win.

**Review by Vierkantor — COMMENTED** [review]
Nice work! I'll have to delegate the MetaM part to someone else but the normal functional program looks good.

**Comment by semorrison** [comment]
Thank you very much, @Vierkantor, for the review! I'll get to it soon. I hope this means the polishing is going well. :-)

**Comment by Vierkantor** [comment]
> I hope this means the polishing is going well. :-)

It's certainly converging quickly enough that I'm allowing myself some time to do other things again :D

File: Mathlib/Data/MLList/BestFirst.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Data/MLList/BestFirst.lean:42]: Well, it's also so we don't actually have to calculate the whole list in advance until it is needed.

(Moreover, even after we calculate some initial segment of an MLList, because it is lowest priority, something else could arrive at the head of the queue, obviating the need to calculate more of the list.)

Comment (semorrison) [reply Mathlib/Data/MLList/BestFirst.lean:42]: I've added some further explanation here.

File: Mathlib/Tactic/RewriteSearch.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/Tactic/RewriteSearch.lean:58]: Haha. I suspect in practice we see very few words ending in excessively many`)],` characters, but sure.

I couldn't resist asking GPT to do this for me, because I knew this was right up its alley, but the Lean 4 knowledge would probably be hard for it. It probably took longer than writing it myself, but GPT [managed with some feedback](https://chat.openai.com/share/7457a858-0ff1-4ef3-9c00-ad7447d0b8ae). Just add some nice VSCode integration and voice recognition...?

File: Mathlib/Tactic/RewriteSearch.lean (hunk 7 above)
Comment (semorrison) [reply Mathlib/Tactic/RewriteSearch.lean:66]: Added some further discussion.

File: Mathlib/Tactic/RewriteSearch.lean (hunk 6 above)
Comment (semorrison) [reply Mathlib/Tactic/RewriteSearch.lean:74]: Moved!

File: Mathlib/Data/MLList/BestFirst.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Data/MLList/BestFirst.lean:155]: I didn't have any luck with the monadology, but the refactoring suggestion was a great improvement. I've also added lots of comments explaining the flow control.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Lean/Thunk.lean [hunk 9]
```diff
@@ -30,10 +30,17 @@ instance {α : Type u} [DecidableEq α] : DecidableEq (Thunk α) := by
   rw [this]
   infer_instance
 
-/-- The product of two thunks. -/
+/-- The cartesion product of two thunks. -/
```
Comment (semorrison) [inline Mathlib/Lean/Thunk.lean:33]:
```suggestion
/-- The cartesian product of two thunks. -/
```

File: Mathlib/Order/Estimator.lean [hunk 10]
```diff
@@ -7,6 +7,8 @@ import Mathlib.Order.RelClasses
 import Mathlib.Data.Set.Image
 import Mathlib.Order.Hom.Basic
 import Mathlib.Lean.Thunk
+import Mathlib.Data.Prod.Lex
+import Mathlib.Tactic.LibrarySearch
```
Comment (semorrison) [inline Mathlib/Order/Estimator.lean:11]:
```suggestion
```

File: Mathlib/Tactic/RewriteSearch.lean [hunk 11]
```diff
@@ -0,0 +1,313 @@
+/-
+Copyright (c) 2023 Kim Liesinger. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kim Liesinger
```
Comment (semorrison) [inline Mathlib/Tactic/RewriteSearch.lean:4]:
```suggestion
Copyright (c) 2023 Lean FRO, LLC. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Scott Morrison
```

File: Mathlib/Tactic/RewriteSearch.lean [hunk 12]
```diff
@@ -0,0 +1,313 @@
...
+With a larger test suite it might be worth running this minimization again,
+and considering other penalty functions.
+
+(If you do this, please choose a penalty function which is in the interior of the region
+where the test suite works.
+I think it would be a bad idea to optimize the run time at the expense of fragility.)
+-/
+def penalty (n : SearchNode) : Nat := n.lastIdx.log2 + n.ppGoal.length.log2
+
+/-- The priority function for search is Levenshtein distance. -/
```
Comment (semorrison) [inline Mathlib/Tactic/RewriteSearch.lean:219]:
```suggestion
/-- The priority function for search is Levenshtein distance plus a penalty. -/
```

File: Mathlib/Tactic/RewriteSearch.lean [hunk 13]
```diff
@@ -0,0 +1,313 @@
...
+    let rhsTokens ← tokenize rhs
+    let r :=
+      { history := history
+        mctx := ← ctx.getDM getMCtx
+        goal := goal
+        type := type
+        ppGoal := (← ppExpr type).pretty
+        lhs := lhsTokens
+        rhs := rhsTokens }
+    -- trace[rw_search] s!"{r}"
```
Comment (semorrison) [inline Mathlib/Tactic/RewriteSearch.lean:169]:
```suggestion
```

File: test/linarith.lean [hunk 14]
```diff
@@ -7,6 +7,9 @@ private axiom test_sorry : ∀ {α}, α
 set_option linter.unusedVariables false
 set_option autoImplicit true
 
+-- You can enable tracing of the `linarith` algorithm using
+-- set_option trace.linarith true
+
```
Comment (robertylewis) [inline test/linarith.lean:12]:
```suggestion
```

this looks mistaken

**Review by robertylewis — COMMENTED** [review]
This has been held up long enough. @semorrison if you're happy with the current state, let's merge and see how it does in practice.

bors d+

File: Mathlib/Data/MLList/BestFirst.lean [hunk 15]
```diff
@@ -23,43 +25,242 @@ Options:
...
+or from a goal to a target). Edit distance computations are particularly suited to this design
+because the usual algorithm for computing them produces improving lower bounds at each step.
+
+With this design, it is okay if we visit nodes with very large edit distances:
+while these would be expensive to compute, we never actually finish the computation
+except in cases where the node arrives at the front of the queue.
+-/
+section
+
+/-- A node in a `BestFirstQueue. -/
```
Comment (alexjbest) [inline Mathlib/Data/MLList/BestFirst.lean:84]:
```suggestion
/-- A node in a `BestFirstQueue`. -/
```

File: test/linarith.lean (hunk 14 above)
Comment (semorrison) [inline test/linarith.lean:12]:
```suggestion
```

**Comment by semorrison** [comment]
bors merge

**Comment by robertylewis** [comment]
@semorrison just to confirm, you saw the build failure in your last commit before you accepted the suggestions and merged, right?

**Comment by semorrison** [comment]
> @semorrison just to confirm, you saw the build failure in your last commit before you accepted the suggestions and merged, right?

Yes. There was a build failure after I merged master, which I've fixed (changes to `DiscrTree` tree API).
